US04863929
1,1-diethyl-3-(6-methyl-13-isopropyl-8α-ergolinyl)urea.
With isopropyl iodide and 3-(13-bromo-1-tert-butyldimethylsilyl-6-n-propyl-8α-ergolinyl)-1,1-diethylurea:

reactant | isopropyl iodide | C(C)(C)I | C3H7I
reactant | 3-(13-bromo-1-tert-butyldimethylsilyl-6-n-propyl-8α-ergolinyl)-1,1-diethylurea | BrC=1C=C2N(C=C3C[C@H]4N(C[C@H](C[C@@H]4C(C1)=C32)NC(N(CC)CC)=O)CCC)[Si](C)(C)C(C)(C)C | C28H45BrN4OSi
product | 1,1-diethyl-3-(6-methyl-13-isopropyl-8α-ergolinyl)urea | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=CNC4=CC(=CC([C@H]2C1)=C34)C(C)C)C)CC | C23H34N4O
